US05595872
C. 4-Methoxy-α-(4-methoxyphenyl)benzeneacetic acid
To neat morpholine (43.56 g, 0.5 mol) was added dichloroacetic acid (12.89 g, 0.1 mol) portionwise under argon, with ice bath. When the addition was finished, the ice bath was removed and the reaction was allowed to stand at ambient temperature for 16 hours. The reaction mixture was dissolved in a mixed solvent of 120 mL acetic acid and 12 mL H2O and was stirred at room temperature until it was clear. To the reaction was then added anisole (43.2 g, 0.4 mol) followed by 100 mL concentrated H2SO4 with ice bath keeping temperature less then 25° C. The reaction was stirred at room temperature for 16 hours and warmed to 60° C. for 3 hours. The reaction mixture was poured over the ice and was extracted with CHCl3. The CHCl3 layer was then washed with 1N NaOH then filtered. The aqueous solution was acidified with HCl to give a cloudy solution which crystallized upon standing at room temperature for 64 hours. The crystalline solid was filtered and rinsed with H2O to give the acid (15.2 g, 55%).

reactant | morpholine | 0.5 mol, 43.56 g | N1CCOCC1 | C4H9NO
reactant | dichloroacetic acid | 0.1 mol, 12.89 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | anisole | 0.4 mol, 43.2 g | C1(=CC=CC=C1)OC | C7H8O
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 4-Methoxy-α-(4-methoxyphenyl)benzeneacetic acid | 15.2 g, 55% | COC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)OC | C16H16O4
